US06066641
d) 6-Amino-1-(4-chlorobenzyl)-5-nitroso-uracil
157.6 ml of 4N sodium nitrite was added over 45 minutes to a suspension of 165 g of 6-amino-1-(4-chlorobenzyl)-uracil in 825 ml of acetic acid at 65-70° C. After a further 15 minutes at 70° C. the reaction mixture was cooled to room temperature, the pink solid collected and washed with 80% acetic acid and water to give the title compound (150.9 g) mp >320° C.

reactant | sodium nitrite | 4N, 157.6 ml | N(=O)[O-].[Na+]
reactant | 6-amino-1-(4-chlorobenzyl)-uracil | 165 g | NC1=CC(NC(N1CC1=CC=C(C=C1)Cl)=O)=O | C11H10ClN3O2
solvent | acetic acid | 825 ml | C(C)(=O)O | C2H4O2
product | 6-Amino-1-(4-chlorobenzyl)-5-nitroso-uracil | 150.9 g | NC1=C(C(NC(N1CC1=CC=C(C=C1)Cl)=O)=O)N=O | C11H9ClN4O3
